US07713993B2
(5) Synthesis of 2-(4-fluorophenyl)-8-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene}-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyridine
A solution of 2-{4-chloro-1-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene}butyl}-5-(4-fluorophenyl)-[1,3,4]oxadiazole (85 mg) and ammonium acetate (290 mg) in acetic acid (3 mL) was heated under reflux for 10 hours. The reaction solution was left to cool to room temperature and concentrated under reduced pressure. Methylene chloride and a 1 N sodium hydroxide solution were added to the residue, and the organic layer was separated. The resulting organic layer washed with brine, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (carrier: Chromatorex™ NH; elution solvent: heptane:ethyl acetate=1:1->ethyl acetate) to obtain 34 mg of the title compound. The property values of the compound are as follows.

reactant | 2-{4-chloro-1-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene}butyl}-5-(4-fluorophenyl)-[1,3,4]oxadiazole | 85 mg | ClCCC\C(=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)\C=1OC(=NN1)C1=CC=C(C=C1)F | C24H22ClFN4O2
reactant | ammonium acetate | 290 mg | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | 2-(4-fluorophenyl)-8-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene}-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyridine | 34 mg | FC1=CC=C(C=C1)C1=NN2C(/C(/CCC2)=C/C2=CC(=C(C=C2)N2C=NC(=C2)C)OC)=N1 | C24H22FN5O
